US09119868B2
A mixture of 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(methylsulfonamido)benzofuran-3-carboxamide (1.850 g, 4.60 mmol), methyl 3,5-difluoro-2-nitrobenzoate (1.996 g, 9.19 mmol) and Na2CO3 (1.462 g, 13.79 mmol) in hexamethylphosphoramide (25 mL) was stirred overnight at room temperature. The mixture was diluted with EtOAc and filtered through a pad of Celite®. The filtrate was washed with brine, dried over Na2SO4, concentrated and purified by silica gel chromatography (0-35% EtOAc in hexanes) to give methyl 5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-3-fluoro-2-nitrobenzoate (1.61 g, 58% yield) as yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.62 (br. s., 1H), 0.79-0.95 (m, 2H), 0.96-1.11 (m, 1H), 1.84-1.97 (m, 1H), 3.01 (d, J=5.0 Hz, 3H), 3.31-3.36 (m, 3H), 3.87 (s, 3H), 5.82 (d, J=4.6 Hz, 1H), 7.22 (t, J=8.6 Hz, 2H), 7.37-7.44 (m, 1H), 7.50-7.54 (m, 2H), 7.56 (s, 1H), 7.83-7.92 (m, 2H). LCMS (m/z, ES+)=600.2 (M+H+).

reactant | 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(methylsulfonamido)benzofuran-3-carboxamide | 4.60 mmol, 1.850 g | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)NS(=O)(=O)C | C20H19FN2O4S
reactant | methyl 3,5-difluoro-2-nitrobenzoate | 9.19 mmol, 1.996 g | FC=1C(=C(C(=O)OC)C=C(C1)F)[N+](=O)[O-] | C8H5F2NO4
reactant | Na2CO3 | 13.79 mmol, 1.462 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | hexamethylphosphoramide | 25 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-3-fluoro-2-nitrobenzoate | 1.61 g, 58% yield | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)C=1C=C(C(=C(C(=O)OC)C1)[N+](=O)[O-])F | C28H23F2N3O8S
